US07301036B2
Step A. 5,6-Dichloro-N-[4-(cyclohexyl)phenyl]-1H-benzimidazol-2-amine
To a stirring solution of 4-cyclohexylaniline (10 mmol, 1.75 g) and DIEA (21 mmol, 3.65 mL) in CH2Cl2 (10 mL) at 0° C. was added thiophosgene (10 mmol, 700 μL) dropwise. The solution was allowed to reach ambient temperature for 1 h, and 4,5-dichloro-1,2-phenylenediamine (10.5 mmol, 1.86 g) was added. The reaction mixture was heated to reflux for 2 h, then concentrated in vacuo. The residue was taken up in a solution of EtOH (5 mL) and MeI (20 mmol, 1.25 muL), heated at 40° C. for 16 h, and concentrated in vacuo. Flash chromatography on silica eluting with 18-25% EtOAc in hexanes afforded the product as a red solid. LC-MS (ESI, Method C): 3.47 min, m/z 360.2 (M+1).

reactant | 4-cyclohexylaniline | 10 mmol, 1.75 g | C1(CCCCC1)C1=CC=C(N)C=C1 | C12H17N
reactant | DIEA | 21 mmol, 3.65 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | thiophosgene | 10 mmol, 700 μL | C(=S)(Cl)Cl | CCl2S
reactant | 4,5-dichloro-1,2-phenylenediamine | 10.5 mmol, 1.86 g | ClC1=CC(=C(C=C1Cl)N)N | C6H6Cl2N2
reactant | MeI | 20 mmol | CI | CH3I
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | EtOH | 5 mL | CCO | C2H6O
product | 5,6-Dichloro-N-[4-(cyclohexyl)phenyl]-1H-benzimidazol-2-amine | ClC1=CC2=C(NC(=N2)NC2=CC=C(C=C2)C2CCCCC2)C=C1Cl | C19H19Cl2N3
